US08431733B2
To a previously cooled solution of pure (2S,3S)-3-(dibenzylamino)-2-hydroxyhexanoic acid (52.0 g; 0.159 mol) in dichloromethane (520 mL) at 0-5° C. was added at 0° C. 1-hydroxybenzotriazole (HOBT, 32.2 g; 0.238 mol) followed by 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide (EDCI, 45.5 g; 0.238 mol). The mixture was stirred for 10 minutes at ambient temperature. The progress of the reaction was monitored by TLC (methanol/methylene chloride, 5:95). After 10 minutes, cyclopropylamine (18.13 g; 0.318 mol) was added at 0° C., and the mixture was stirred at ambient temperature for 3 hours. Reaction progress was again monitored by TLC. Upon completion of the reaction, water was added (500 ml), the organic layer separated, and washed with brine (500 mL). The organic layer was separated, dried over sodium sulfate, and solvent removed under reduced pressure to provide crude (2S,3S)-N-cyclopropyl-3-(dibenzylamino)-2-hydroxyhexanamide as a semi-solid. This semi-solid was suspended in hexanes (250 mL) and filtered. The process was repeated, to provide 35 g of pure (2S,3S)-N-cyclopropyl-3-(dibenzylamino)-2-hydroxyhexanamide as a white solid.

reactant | (2S,3S)-3-(dibenzylamino)-2-hydroxyhexanoic acid | 0.159 mol, 52.0 g | C(C1=CC=CC=C1)N([C@H]([C@@H](C(=O)O)O)CCC)CC1=CC=CC=C1 | C20H25NO3
reactant | 1-hydroxybenzotriazole | 0.238 mol, 32.2 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide | 0.238 mol, 45.5 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | cyclopropylamine | 0.318 mol, 18.13 g | C1(CC1)N | C3H7N
solvent | dichloromethane | 520 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | methanol methylene chloride | CO.C(Cl)Cl
product | (2S,3S)-N-cyclopropyl-3-(dibenzylamino)-2-hydroxyhexanamide | 35 g | C1(CC1)NC([C@H]([C@H](CCC)N(CC1=CC=CC=C1)CC1=CC=CC=C1)O)=O | C23H30N2O2
